US05045556
320 mg (1.5 mmol) of 1-ethoxy-2-(2,6-difluorophenyl)-1-(N-methylimino)-ethane and 155 mg (1.5 mmol) of oxalic acid monoamide monohydrazide are dissolved under a nitrogen atmosphere in 5 ml of N-methylmorpholine and the whole is heated under reflux for 41 hours. After cooling, the reaction mixture is diluted with 20 ml of dichloromethane and extracted by shaking in succession twice with water, twice with 2N hydrochloric acid and again with water The last three acidic aqueous phases obtained are combined, rendered alkaline with concentrated ammonia solution and extracted three times with dichloromethane. The combined organic phases are dried over magnesium sulphate and concentrated. Recrystallisation of the crude product from ethanol yields 102 mg (27% of the theoretical yield) of the desired 5-(2,6-difluorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxamide which melts at 189°-190°.

reactant | 1-ethoxy-2-(2,6-difluorophenyl)-1-(N-methylimino)-ethane | 1.5 mmol, 320 mg | C(C)OC(CC1=C(C=CC=C1F)F)=NC | C11H13F2NO
reactant | oxalic acid monoamide monohydrazide | 1.5 mmol, 155 mg | C(C(=O)NN)(=O)N | C2H5N3O2
reactant | ammonia | N | H3N
solvent | N-methylmorpholine | 5 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(2,6-difluorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxamide | FC1=C(CC=2N(C(=NN2)C(=O)N)C)C(=CC=C1)F | C11H10F2N4O
